Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with history of asthma and remote Hodgkin's
(early ___) presenting with progressive shortness of breath 
and
chest tightness.

Patient notes that about a month ago, house nearby was
demolished, and increasing dust in the air. He developed cough,
as well as rhinorrhea and significant congestion. Presented to
PCP office and told he had sinusitis 2 weeks ago and treated 
with
Augmentin for 7 days with improvement in sinus tenderness and
congestion. However, today patient describes being unable to
catch his breath and noted some chest tightness. This has been
worse with exertion, and feels better when lying down. Went to
___ office today, and noted to be slightly hypoxic (92% down 
from
normal baseline) with wheezing and diaphorectic. Was tachy to 
104
and wheezing/using accessory muscles to breath. Had been using 
an
old inhaler at home q1h without improvement.

Patient denies any fevers or chills. Notes cough productive of
clear sputum. Patient denies any recent surgeries or traumas,
immobilization or recent cancers. Of note, Hodgkin's was
diagnosed in ___ and has not produced any complications since
then (aside from resulting hypothyroidism). Patient does have a
history of asthma as well as significant smoking history (30 
pack
years), no formal diagnosis of COPD.       

In the ED, initial vitals were: 96.9 ___ 28 97% RA
was as low as 88% on RA
peak flow pre tx 60, peak flow post tx 220
- Exam notable for:
Coarse breath sounds with prolonged expiratory wheeze
bilaterally. 
- Labs notable for: 
BMP: 143/4.9 / ___ < 102
CBC: 13.6 > 16.9/51.9* < 288
Trop < 0.01
VBG 7.35 / ___
Lactate 1.4

UA negative
UCx, BCx pending 
- Imaging was notable for: 
IMPRESSION: CXR
No acute intrathoracic process.
- Patient was given:  
Albuterol neb x 2, ipratropium Neb x 3, 125mg methylpred

- Transfer vitals: 98.1 88 150/90 18 98% 2L NC

Upon arrival to the floor, patient reports feeling much better.
He currently is not having SOB and only mild chest discomfort
that feels like it is from his cough/difficulty taking deep
breaths. He feels no fevers/chills. Notes some mild loose stools
when he was taking augmentin but this has resolved.
 
Past Medical History:
Per OMR:
HYPOTHYROIDISM                                                  
- Following Hodgkins radiation therapy                          
SEXUAL DYSFUNCTION                                              
- Following inguinal surgery                                    
*S/P SPLENECTOMY                                      ___      
- With exploratory lapaorotomy for Hodgkins                     
HYPERLIPIDEMIA                                        ___
THERAPEUTIC PHLEBOTOMY                                          
- On testosterone, managed by urology                           
HEARING LOSS                                                    
SLEEP APNEA                                                     
ANXIETY                                                         
SKIN CANCERS                                                    
Basal Cell skin cancer                                          
HEMOPTYSIS                                                      
H/O ASTHMA                                            ___      
- Allergic, cats, feathers; patient believes this has resolved  
H/O HODGKIN'S DISEASE                                 ___      
- S/P radiation                                                 
H/O PALPITATIONS                                      ___
- Told of pvc's after holter several years ago                  
H/O TESTICULAR PAIN                                   ___
- Varococeil repair ___, persistant pain                       
H/O INCISIONAL HERNIA                                           
H/O COLONIC ADENOMA                                             
H/O PPD POSITIVE                                                
- S/p INH per pulmonary note in OMR                             
H/O DEPRESSION               
 
Social History:
___
Family History:
FAMILY HISTORY:  
Patient notes mother who passed away from complications of COPD
and paternal grandparent who had COPD. Also notes family history
of cardiac disease in old age.

 
Physical Exam:
PHYSICAL EXAM:  
VITAL SIGNS: 98.5 134/78 93 1893% 2L   on admit
GENERAL: Patient appears well, w NC in place, in NAD 
HEENT: MMM, no scleral icterus. No maxillary sinus tenderness.
NECK: No significant LAD, no JVP elevation 
CARDIAC: slightly tachycardic, normal rhythm, normal s1 and s2,
no m/r/g  
LUNGS: Diffuse mild wheezing, both inspiratory and expiratory,
with some diminished sounds at the bases 
ABDOMEN: Soft, nontender, nondistended  
EXTREMITIES: WWP, no ___ edema  
NEUROLOGIC: A&Ox3, moving all extremities with purpose, PERRL
SKIN: No rashes or ulcers 

On Discharge,
Pox 90-92% on Room air, including ambulation
He appeared extremely well, ambulating with ease
Lung exam notable for only scattered wheezes.
 
Pertinent Results:
___ 12:45PM BLOOD WBC-13.6* RBC-5.70 Hgb-16.9 Hct-51.9* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-14.2 RDWSD-47.7* Plt ___
___ 06:40AM BLOOD WBC-20.7* RBC-5.52 Hgb-16.3 Hct-49.5 
MCV-90 MCH-29.5 MCHC-32.9 RDW-14.1 RDWSD-46.6* Plt ___
___ 12:45PM BLOOD Glucose-102* UreaN-8 Creat-0.7 Na-143 
K-4.9 Cl-105 HCO3-26 AnGap-12
___ 06:40AM BLOOD Glucose-160* UreaN-12 Creat-0.7 Na-143 
K-4.1 Cl-105 HCO3-22 AnGap-16
___ 06:40AM BLOOD Calcium-9.6 Phos-2.7 Mg-2.1
___ 12:54PM BLOOD O2 Sat-94

CXR
PA and lateral views of the chest provided.  The lungs are clear 
bilaterally.  There is no focal consolidation, effusion, or 
pneumothorax.  There are no signs of congestion or edema.  The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  No free air below the right 
hemidiaphragm is seen. 

 
Brief Hospital Course:
___ male with history of asthma remote Hodgkin's presenting with
progressive shortness of breath concerning for asthma vs. COPD
exacerbation.
 
#SOB / cough / hypoxemia
#h/o asthma / possible COPD
Patient presenting with several days of worsening 
dyspnea/hypoxia. Given extensive smoking history, may have COPD, 
but also w history of asthma and recent dust exposure. Sinusitis 
appears to be improved, but with ongoing rhinorrhea and cough.
- Patient had dramatic improvement in symptoms with treatment 
with prednisone, duonebs and azithromycin.  He had mild hypoxia 
(90-92%) at rest and with ambulation.  His baseline oxygen 
saturation appears to be around 95%, suggesting some mild 
underlying COPD.   He had PFTs done in ___, and PCP can 
consider repeat after this present flare has been treated to see 
if in fact there is underlying COPD.    He was discharged on 
ipratropium/albtuerol every 8 hours; if he is back to baseline, 
PCP to adjust treatment for maintenance at ___.  

#Chest tightness
Likely ___ cough/reactive airway disease per above. EKG in ED 
was without ischemic changes and first cardiac enzymes were 
negative
- Trend additional cardiac enzymes
- resolved by the time patient arrived on medical floor.  

#tobacco use
Patient would be interested in trying to quit, has tried in past 
but relapsed
I recommended that he continue nicotine patch, and gave him 
information on use of chantix, which he reviewed and will 
discuss with PCP at ___.

#hypothyroidism
- continue synthroid

#HLD
- continue lipitor

#Depression
- continue sertraline

#Primary prevention
- continue aspirin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Sertraline 100 mg PO DAILY 
5. Testosterone Cypionate 50 mg IM WEEKLY 
6. TraZODone 50-100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
This is your rescue inhaler.  
2.  Azithromycin 250 mg PO DAILY Duration: 3 Doses  
3.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q8H 
use this every 8 hours until you see Dr ___.  
4.  Nicotine Patch 14 mg/day TD DAILY  
5.  PredniSONE 40 mg PO DAILY Duration: 3 Days  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Levothyroxine Sodium 150 mcg PO DAILY  
9.  Sertraline 100 mg PO DAILY  
10.  Testosterone Cypionate 50 mg IM WEEKLY  
11.  TraZODone 50-100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Wheezing, shortness of breath due to either asthma or COPD 
(emphysema) flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with difficulty breathing, and this may have 
been triggered by exposure to smoke/building dust from a 
demolition near your home.  You have improved with antibiotics 
and breathing treatments.   I have sent a prescription for 
combivent inhaler that you should use three times a day until 
you see Dr ___.  The combivent includes albuterol.  However, 
if you develop acute shortness of breath or wheezing in between 
combivent, you may use the individual albuterol inhaler.  I have 
sent over prescriptions for 3 additional days of prednisone and 
3 days of antibiotics (azithromycin) to your pharmacy ___ 
___, ___
You have a followup with Dr ___ week, and which point 
you should discuss repeating pulmonary function tests in the 
future.  It is important that you continue to abstain from 
smoking, and use of nicotine patches can be helpful in that 
regard.  You can also discuss with him use of chantix  
 
Followup Instructions:
___